### PR TITLE
[Merged by Bors] - feat (Topology.Order): Generalize `Monotone.tendsto_nhdsWithin_Iio`

### PR DESCRIPTION
**Pull request by LorenzoLuccioli**
`Monotone.tendsto_nhdsWithin_Iio` and `Monotone.tendsto_nhdsWithin_Ioi` assume monotonicity on the whole space, but it is sufficient for the function to be monotone on an interval.

- Add `MonotoneOn.tendsto_nhdsWithin_Ioo_left`,  `MonotoneOn.tendsto_nhdsWithin_Ioo_right`, `MonotoneOn.tendsto_nhdsWithin_Iio` and `MonotoneOn.tendsto_nhdsWithin_Ioi`.
- Simplify the proof of `Monotone.tendsto_nhdsWithin_Iio` using `MonotoneOn.tendsto_nhdsWithin_Iio`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Order/Monotone.lean [hunk 1]
```diff
@@ -246,18 +246,67 @@ theorem Antitone.map_ciInf_of_continuousAt {f : α → β} {g : γ → α} (Cf :
...
+    Tendsto f (𝓝[>] x) (𝓝 (sInf (f '' Ioo x y))) := by
+  refine tendsto_order.2 ⟨fun l hl => ?_, fun m hm => ?_⟩
+  · rcases h_nonempty with ⟨p, hy, hx⟩
+    refine mem_of_superset (Ioo_mem_nhdsWithin_Ioi' (hy.trans hx)) fun w hw => hl.trans_le ?_
+    exact csInf_le h_bdd (mem_image_of_mem _ hw)
+  · obtain ⟨z, ⟨xz, zy⟩, zm⟩ : ∃ a : α, a ∈ Ioo x y ∧ f a < m := by
+      simpa [mem_image, exists_prop, exists_exists_and_eq_and] using
+        exists_lt_of_csInf_lt (h_nonempty.image _) hm
+    refine mem_of_superset (Ioo_mem_nhdsWithin_Ioi' xz) fun w hw => ?_
+    exact (Mf ⟨hw.1, hw.2.trans zy⟩ ⟨xz, zy⟩ hw.2.le).trans_lt zm
```
Comment (Ruben-VandeVelde) [inline Mathlib/Topology/Order/Monotone.lean:277]: There doesn't happen to be a duality argument lean would accept?

File: Mathlib/Topology/Order/Monotone.lean [hunk 2]
```diff
@@ -246,18 +246,67 @@ theorem Antitone.map_ciInf_of_continuousAt {f : α → β} {g : γ → α} (Cf :
...
+    {f : α → β} {x : α} (Mf : MonotoneOn f (Ioi x)) (h_bdd : BddBelow (f '' Ioi x)) :
+    Tendsto f (𝓝[>] x) (𝓝 (sInf (f '' Ioi x))) := by
+  rcases eq_empty_or_nonempty (Ioi x) with (h | h); · simp [h]
+  refine tendsto_order.2 ⟨fun l hl => ?_, fun m hm => ?_⟩
+  · refine mem_of_superset self_mem_nhdsWithin fun y hy => hl.trans_le ?_
+    exact csInf_le h_bdd (mem_image_of_mem _ hy)
+  · obtain ⟨z, xz, zm⟩ : ∃ a : α, x < a ∧ f a < m := by
+      simpa only [mem_image, exists_prop, exists_exists_and_eq_and] using
+        exists_lt_of_csInf_lt (h.image _) hm
+    exact mem_of_superset (Ioo_mem_nhdsWithin_Ioi' xz) fun y hy => (Mf hy.1 xz hy.2.le).trans_lt zm
```
Comment (Ruben-VandeVelde) [inline Mathlib/Topology/Order/Monotone.lean:303]: Also here

File: Mathlib/Topology/Order/Monotone.lean (hunk 1 above)
Comment (LorenzoLuccioli) [reply Mathlib/Topology/Order/Monotone.lean:277]: In the following lemma I managed to use a duality argument, but here I did not find a way to do it

**Comment by dupuisf** [comment]
Can you add antitone versions of these? These are probably one-liners using `OrderDual`.

**Comment by dupuisf** [comment]
Great; thanks!

bors r+
